US05081309
A mixture of 126 g (1.5 moles) of cyclopentanone, 50 g (0.5 mole) of 2-methylpentanal and 10 g of a pulverulent catalyst containing 1% by weight of palladium, 94% by weight of alumina and 5% by weight of praseodymium oxide was initially taken in a 300 ml autoclave. The autoclave was flushed with nitrogen and hydrogen at 20° C., after which H2 was forced in to a pressure of 10 bar and the reaction mixture was then heated at 150° C. under a hydrogen pressure of 30 bar until the pressure remained constant. The catalyst was removed, after which the mixture discharged from the autoclave was fractionated. 74.9 g of pure 2-(2-methylpentyl)-cyclopentanone (bp. 125° C./20 mbar) were obtained, corresponding to a selectivity of 89.2%, based on 2-methylpentanal.

reactant | cyclopentanone | 1.5 moles, 126 g | C1(CCCC1)=O | C5H8O
reactant | 2-methylpentanal | 0.5 mole, 50 g | CC(C=O)CCC | C6H12O
reactant | praseodymium oxide | [O-2].[Pr+3].[O-2].[O-2].[Pr+3]
catalyst | palladium | [Pd] | Pd
product | 2-(2-methylpentyl)-cyclopentanone | 74.9 g | CC(CC1C(CCC1)=O)CCC | C11H20O
